US09227978B2
1-(4-(2′-Chloro-5-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazin-1-yl)prop-2-en-1-one
To a solution of tert-butyl 4-acryloylpiperazine-1-carboxylate (260 mg, 1.07 mmol) in DCM (2 mL), a solution of HCl in MeOH (10 mL, 28.6 mmol) was added and the resulting mixture was stirred at room temperature for 1 h. The mixture was concentrated in vacuo. The residue was added to the solution of 3-(2-chlorophenyl)-5-methoxybenzoic acid (280 mg, 1.07 mmol), HOBt (290 mg, 2.17 mmol), EDCI.HCl (410 mg, 2.17 mmol) and Et3N (324 mg, 3.21 mmol) in DMF (10 mL). The resulting mixture was stirred at room temperature for 16 h and partitioned between DCM and saturated NaHCO3 solution. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (200 mg, 52% yield). ESI-MS m/z: 385.2[M+H]+.

reactant | tert-butyl 4-acryloylpiperazine-1-carboxylate | 1.07 mmol, 260 mg | C(C=C)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C12H20N2O3
reactant | HCl | Cl | ClH
reactant | MeOH | 28.6 mmol, 10 mL | CO | CH4O
reactant | 3-(2-chlorophenyl)-5-methoxybenzoic acid | 1.07 mmol, 280 mg | ClC1=C(C=CC=C1)C=1C=C(C(=O)O)C=C(C1)OC | C14H11ClO3
reactant | HOBt | 2.17 mmol, 290 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 2.17 mmol, 410 mg | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 3.21 mmol, 324 mg | CCN(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-(2′-Chloro-5-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazin-1-yl)prop-2-en-1-one | 200 mg, 52% yield | ClC1=C(C=CC=C1)C1=CC(=CC(=C1)OC)C(=O)N1CCN(CC1)C(C=C)=O | C21H21ClN2O3
